US09340556B2
To a solution of (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide (2.68 g, 3.18 mmol) in acetone (40 mL) was added sodium iodide (0.715 g, 4.77 mmol). The mixture was stirred at room temperature over 3 h. LCMS indicated completion of the reaction. The solid was filtered off, the filtrate was concentrated under vacuum to afford (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-3-(iodomethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide (2.97 g, 3.18 mmol, 100% yield) as a dark red solid. LCMS: (M+H)+: 934.0.

reactant | (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide | 3.18 mmol, 2.68 g | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2S(CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCl)=O)\C=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C39H44ClN5O10S2
reactant | sodium iodide | 4.77 mmol, 0.715 g | [I-].[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-3-(iodomethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide | 3.18 mmol, 2.97 g, 100% yield | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2S(CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CI)=O)\C=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C39H44IN5O10S2
